US06951879B2
150 mg (0.4 mmol) 2-(Ethyl-{4-[3-(4-ethynyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol in 6 ml EtOAc were hydrogenated in the presence of 50 mg 10% Pd/C, filtration over decalite, followed by purification by preparative HPLC yielded 2-(Ethyl-{4-[3-(4-ethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol as light yellow oil, MS: 399 (MH+).

reactant | 2-(Ethyl-{4-[3-(4-ethynyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol | 0.4 mmol, 150 mg | C(C)N(CCO)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C#C)C=C1 | C23H26N2O2S
solvent | EtOAc | 6 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-(Ethyl-{4-[3-(4-ethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol | C(C)N(CCO)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)CC)C=C1 | C23H30N2O2S
